US07795288B2
(4-Methoxy-phenyl)-(5-thiophen-3-yl-thiazol-2-yl)-amine
A mixture of (5-bromo-thiazol-2-yl)-(4-methoxy-phenyl)-amine (203 mg, 0.710 mmol), 3-thiophene-boronic acid (268 mg, 2.10 mmol, 6.0 equiv), Pd(PPh3)4 (12 mg, 0.0105 mmol, 0.03 equiv), Na2CO3 (326 mg, 3.08 mmol, 8.8 equiv), and water (305 μL, 16.7 mmol, 24 equiv) in toluene (10 mL) is heated in a sealed tube to 120° C. for 1 h, under an argon atmosphere. The resulting suspension is allowed to cool to RT and filtered through a pad of celite, washing the filter cake with CH2Cl2 and water. The layers are separated. The organic phase is dried (Na2SO4), filtered and concentrated. Purification by MPLC (CH3CN/H2O/TFA) affords the title compound as a light beige solid: ES-MS: 289.0 [M+H]+; single peak at tR=7.43 min (System 1); Rf=0.56 (CH2Cl2/MeOH, 80/20).

reactant | (5-bromo-thiazol-2-yl)-(4-methoxy-phenyl)-amine | 0.710 mmol, 203 mg | BrC1=CN=C(S1)NC1=CC=C(C=C1)OC | C10H9BrN2OS
reactant | 3-thiophene-boronic acid | 2.10 mmol, 268 mg, 6.0 equiv | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 3.08 mmol, 326 mg, 8.8 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 16.7 mmol, 305 μL, 24 equiv | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.0105 mmol, 12 mg, 0.03 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-Methoxy-phenyl)-(5-thiophen-3-yl-thiazol-2-yl)-amine | COC1=CC=C(C=C1)NC=1SC(=CN1)C1=CSC=C1 | C14H12N2OS2
